US04560692
(a) 4-Chloro-2-(4-chlorophenyl)quinoline
To a solution of 15.3 g (80 mmol) of 4-bromochlorobenzene in 100 ml of ether cooled to -25° was added 60 ml of a 1.6M solution of butyl lithium in hexane in three portions while maintaining the temperature below -20°. This mixture was allowed to warm to -5° during 15 min. It was then recooled to -20°, and a solution of 11.45 g (70 mmol) of 4-chloroquinoline in 40 ml of ether was added while maintaining the temperature at -20°. A yellow suspension formed. It was allowed to warm to 0° for 15 min, and was then stirred for a further 20 min at 0°-10°. To the reaction mixture was then added 20 ml of water and 20 g of iodine. After 20 min of stirring 40 ml of 3N sodium hydroxide solution was added and stirring was continued for a further 15 min. This mixture was then cooled to 10°, and the solid collected to give 17.65 g of product, mp 119°-122°.

reactant | 4-bromochlorobenzene | 80 mmol, 15.3 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | butyl lithium | C(CCC)[Li]
reactant | 4-chloroquinoline | 70 mmol, 11.45 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | iodine | 20 g | II | I2
reactant | sodium hydroxide | 3N, 40 ml | [OH-].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | water | 20 ml | O | H2O
product | 4-Chloro-2-(4-chlorophenyl)quinoline | 17.65 g | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)Cl | C15H9Cl2N
